US04451660
Preparation of methylthio-3-nitro-5-acetylthiophene
Liquid methylmercaptan (4 ml) was added to a solution of 0.82 g of Na in 50 ml of absolute ethanol. The resulting solution was added to a solution of 7.2 g of 2-chloro-3-nitro-5-acetylthiophene in 200 ml of absolute ethanol in 15 minutes at 5° C. After stirring at room temperature for 30 minutes, 100 ml of water was added, after which the precipitate was sucked off and washed successively with water and isopropanol. The precipitate was boiled a moment with 300 ml of carbontetrachloride, cooled down, and sucked off. After drying the title compound was obtained in a yield of 6.4 g; m.p. 191°-193° C.

reactant | methylmercaptan | 4 ml | CS | CH4S
reactant | 2-chloro-3-nitro-5-acetylthiophene | 7.2 g | ClC=1SC(=CC1[N+](=O)[O-])C(C)=O | C6H4ClNO3S
reactant | water | 100 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | methylthio-3-nitro-5-acetylthiophene | CSC=1SC(=CC1[N+](=O)[O-])C(C)=O | C7H7NO3S2
